US07067658B2
To a solution of 4-(4-methoxy-2-methyl-phenyl)-3-nitro-3H-pyridin-2-one (0.321 g, 1.23 mmol) CH2Cl2 (13 mL), was added Na2CO3 (0.317 g, 3.02 mmol). The reaction was cooled to −78° C., and trifluoromethanesulfonic anhydride (617 μL, 3.65 mmol) was added dropwise. After the addition, the reaction stirred for 15 min at −78° C., then warmed to 0° C. for 1 h. The reaction mixture was filtered and the collected solid was washed with CHCl3. The filtrate was concentrated in vacuo and dissolved in toluene (20 mL) followed by Et3N (343 μL, 2.4 mmol) and 1-cyclopropyl propyl amine HCl (0.331 g, 2.4 mmol), and heated at 130° C. overnight. The reaction was cooled and poured onto ice/H2O. The mixture was extracted with CH2Cl2, washed with H2O, brine, dried Na2SO4, filtered, and concentrated in vacuo. Purification using flash chromatography (10% EtOAc/Hexane) gave 0.220 g (54%) of (1-cyclopropyl-propyl)-[4-(4-methoxy-2-methyl-phenyl)-3-nitro-pyridin-2-yl]-amine: MS(AP) m/z 342.1 [(M+H)+, 100]. The purified intermediate was used in the following step.

reactant | 4-(4-methoxy-2-methyl-phenyl)-3-nitro-3H-pyridin-2-one | 1.23 mmol, 13 mL, 0.321 g | COC1=CC(=C(C=C1)C=1C(C(N=CC1)=O)[N+](=O)[O-])C | C13H12N2O4
reactant | Na2CO3 | 3.02 mmol, 0.317 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | trifluoromethanesulfonic anhydride | 3.65 mmol, 617 μL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | Et3N | 2.4 mmol, 343 μL | CCN(CC)CC | C6H15N
reactant | 1-cyclopropyl propyl amine HCl | 2.4 mmol, 0.331 g | Cl.C1(CC1)C(CC)N
product | (1-cyclopropyl-propyl)-[4-(4-methoxy-2-methyl-phenyl)-3-nitro-pyridin-2-yl]-amine | 0.220 g, 54% | C1(CC1)C(CC)NC1=NC=CC(=C1[N+](=O)[O-])C1=C(C=C(C=C1)OC)C | C19H23N3O3
